US05962403
A 1-liter four-necked flask equipped with a Dean-Stark trap and a thermometer was charged with 71 g of morpholine and 400 ml of toluene, and 100 g of 3-phenylpropionaldehyde were added dropwise thereto while chilling with ice water, followed by azeotropic dehydration for 1 hour. After cooling the reaction mixture, excess morpholine was distilled off with toluene. The residue was dissolved in 400 ml of toluene. In a 1-liter four-necked flask equipped with a thermometer and a condenser, 70 g of methyl vinyl ketone were added dropwise under reflux to the solution over 1 hour. After aging under reflux for 1 hour, the reaction mixture was cooled, and 10% sulfuric acid was added dropwise to the reaction mixture until the pH of the reaction mixture reached 3. The thus-acidified reaction mixture was then stirred at room temperature for 1.5 hours. After separating the resulting lower water layer, the residual organic layer was neutralized, washed with water, dried and concentrated, thereby obtaining 137 g of a crude product. Dissolved in 500 ml of methanol were 137 g of the crude product, and 4 ml of 4.5 mol/liter aqueous KOH were added dropwise to the solution at room temperature, followed by stirring for 3 hours at the same temperature. After neutralizing the resultant mixture with acetic acid, methanol was distilled off. After the residue was charged into a 1-liter four-necked flask equipped with a Dean-Stark trap and a thermometer to dissolve it in 500 ml of toluene, 2 g of p-toluenesulfonic acid were added to the solution, followed by azeotropic dehydration for 3 hours. After cooling, the residue was neutralized and washed with water, and the resultant organic layer was dried and concentrated, thereby obtaining 119 g of a crude product. This product was purified by column chromatography to obtain 41 g (yield: 30%) of 4-benzyl-2-cyclohexen-1-one.

reactant | morpholine | 71 g | N1CCOCC1 | C4H9NO
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3-phenylpropionaldehyde | 100 g | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | KOH | 4.5 mol/liter, 4 ml | [OH-].[K+]
solvent | methanol | 500 ml | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-benzyl-2-cyclohexen-1-one | 41 g, yield: 30% | C(C1=CC=CC=C1)C1C=CC(CC1)=O | C13H14O
